US04132731
5,5'-Hexanedioyldiimino-bis[N-(2-hydroxy-1,1-dimethylethyl)-2,4,6-triiodoisophthalamic Acid]
Analogously to Example 10, 5-amino-N-(2-hydroxy-1,1-dimethylethyl)-2,4,6-triiodoisophthalamic acid is reacted with hexanedioic acid dichloride in dimethylacetamide, and the reaction mixture is worked up. The thus-obtained product melts at 280°-281° C., with decomposition.

reactant | 5-amino-N-(2-hydroxy-1,1-dimethylethyl)-2,4,6-triiodoisophthalamic acid | NC=1C(=C(C(=C(C(=O)O)C1I)I)C(=O)NC(CO)(C)C)I | C12H13I3N2O4
reactant | hexanedioic acid dichloride | C(CCCCC(=O)Cl)(=O)Cl | C6H8Cl2O2
solvent | dimethylacetamide | CC(=O)N(C)C | C4H9NO
product | 5,5'-Hexanedioyldiimino-bis[N-(2-hydroxy-1,1-dimethylethyl)-2,4,6-triiodoisophthalamic Acid] | C(CCCCC(=O)NC=1C(=C(C(=C(C(=O)O)C1I)I)C(=O)NC(CO)(C)C)I)(=O)NC=1C(=C(C(=C(C(=O)O)C1I)I)C(=O)NC(CO)(C)C)I | C30H32I6N4O10
